2146-06-28 09:19:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Aspiration pneumonia, fever, abnormal
   LFTs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Given 4 liters of IV fluid since admission with improvement in blood
   pressure. Temp has been down since admission to ICU.  Has required O2
   by mask to sustain acceptable saturation.
   Creat improving with fluids. Metabolic acidosis persists.
   24 Hour Events:
 MULTI LUMEN - START [**2146-6-27**] 11:30 PM
   History obtained from Medical records
   Patient unable to provide history: Aphasia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2146-6-28**] 01:00 AM
   Metronidazole - [**2146-6-28**] 03:04 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Pepcid, vanco, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-6-28**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 106 (82 - 106) bpm
   BP: 112/50(64) {100/43(55) - 118/61(75)} mmHg
   RR: 28 (21 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,000 mL
                                                                  1,791 mL
   PO:
             TF:
   IVF:
   1,791 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    810 mL
   Urine:
                                                                    100 mL
                                                                    735 mL
   NG:
   75 mL
   Stool:
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    981 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.36/35/94.[**Numeric Identifier 128**]/19/-4
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Left gaze preference
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Heart sounds largely obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: Diffuse
   upper airway rhonchi primarily on exhalation)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: Equivocal RUQ, Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   156 K/uL
   107 mg/dL
   1.7 mg/dL
   19 mEq/L
   3.4 mEq/L
   44 mg/dL
   103 mEq/L
   135 mEq/L
   30.7 %
   26.3 K/uL
        [image002.jpg]
                             [**2146-6-27**]  11:42 PM
                             [**2146-6-28**]  12:31 AM
                             [**2146-6-28**]  04:49 AM
   WBC
   28.6
   26.3
   Hct
   32.6
   30.7
   Plt
   166
   156
   Cr
   1.9
   1.7
   TropT
   0.03
   0.02
   TCO2
   21
   Glucose
   123
   107
   Other labs: PT / PTT / INR:49.3/38.0/5.4, CK / CKMB /
   Troponin-T:771/16/0.02, ALT / AST:20/49, Alk Phos / T Bili:49/1.1,
   Amylase / Lipase:37/11, D-dimer:962 ng/mL, Fibrinogen:736 mg/dL, Lactic
   Acid:2.5 mmol/L, LDH:229 IU/L, Ca++:6.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: C diff: negative
   UA: + WBCs
   Imaging: CXR: low lung volumes. Infiltrate along right heart border
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 .H/O DEPRESSION
 PNEUMONIA, ASPIRATION
 .H/O AORTIC ANEURYSM, THORACIC (TAA)
   ANEMIA
   ACUTE RENAL FAILURE
   METABOLIC ACIDOSIS
   HYPOTENSION
   HYPOCALCEMIA
   Patient with fever and leukocytosis of unclear etiology. Evidence on
   CXR of Right basilar infiltrate and patient with large secretions in
   posterior pharynx putting him at risk for aspiration. Oxygenation
   improved this AM; mask removed and O2 sats in mid 90s.  LFTs abnormal
   with evidence on CT of dilated gall bladder. Physical exam is
   equivocal. Will obtain HIDA scan.
   Hypotension likely related to intravascular volume depletion and low
   SVR with fever and infection. BP improved this AM. Urine output good.
   Creat elevated but improved from adimission. [**Month (only) 60**] have had severe
   pre-renal state with component of ATN. Continue to support with fluids
   to sustain good urine output > 40 cc hr.
   Metabolic acidosis initially a combination of lactic acidosis and
   uremia. Mild anion gap persists. Continue to support hemodynamics.
   Hct mildly reduced. No evidence of bleedking; value near baseline.
   Monitor stool guiaic.
   INR elevated on coumadin, which is being held.
   Serum calcium low; albumin being checked, calcium being repleted.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-6-27**] 11:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-06-29 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2146-6-28**] 02:00 PM
   - HIDA scan showed acute cholecystitis, not candidate for surgery given
   multiple comorbidities.  IR contact[**Name (NI) **] for percutaneous cholecystostomy,
   but INR was 5.3, needs to be 1.5
   - gave vitamin K to bring down INR
   - blood culture grew GPC in pairs and clusters x 1, pending speciation
   - given 1 unit FFP for possible line, PICC in the AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-6-29**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-6-29**] 05:37 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-6-28**] 08:00 AM
   Morphine Sulfate - [**2146-6-28**] 03:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-6-29**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 74 (74 - 145) bpm
   BP: 111/57(69) {96/43(55) - 133/71(79)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 82.4 kg
             Total In:
                                                                  5,687 mL
                                                                    458 mL
   PO:
             TF:
   IVF:
                                                                  5,250 mL
                                                                    368 mL
   Blood products:
                                                                    257 mL
   Total out:
                                                                  3,065 mL
                                                                    510 mL
   Urine:
                                                                  2,590 mL
                                                                    510 mL
   NG:
                                                                    475 mL
   Stool:
   Drains:
   Balance:
                                                                  2,622 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General: eyes open, grimaces to exam, no response to verbal stim
   HEENT: Sclera anicteric, pupils reactive
   Neck: supple, unable to assess JVP
   Lungs: audible upper airway secretions with rhonchi, difficult to
   appreciate any wheezes or rales, dysynchronous abd breathing
   CV: RRR, unable to appreciate murmurs through upper airway sounds
   Abdomen: mildly distended, no bowel sounds audible, grimaces to deep
   palpation, unable to assess rebound/guarding
   GU: foley in place
   Ext: warm, 1+ pulses, no cyanosis or edema, erosion and lateral
   deviation over MTP joint, no erythema or active drainage.
   Labs / Radiology
   160 K/uL
   9.5 g/dL
   123 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   28.3 %
   22.3 K/uL
        [image002.jpg]
   [**2146-6-29**]
 5am.
                             [**2146-6-27**]  11:42 PM
                             [**2146-6-28**]  12:31 AM
                             [**2146-6-28**]  04:49 AM
                             [**2146-6-28**]  04:28 PM
                             [**2146-6-28**]  10:53 PM
                             [**2146-6-29**]  05:04 AM
   WBC
   28.6
   26.3
   25.5
   22.3
   Hct
   32.6
   30.7
   26.9
   28.1
   28.3
   Plt
   166
   156
   155
   160
   Cr
   1.9
   1.7
   1.6
   1.5
   TropT
   0.03
   0.02
   0.01
   TCO2
   21
   Glucose
   123
   107
   128
   123
   Other labs: PT / PTT / INR:41.1/54.6/4.3, CK / CKMB /
   Troponin-T:400/9/0.01, ALT / AST:24/43, Alk Phos / T Bili:50/0.9,
   Amylase / Lipase:37/11, Differential-Neuts:94.3 %, Lymph:1.3 %,
   Mono:3.2 %, Eos:0.1 %, D-dimer:962 ng/mL, Fibrinogen:736 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   .
   HIDA [**2146-6-28**]: Acute Cholecystitis
   .
   CXR [**2146-6-29**]:
   .
   C. diff negative x2
   .
   MRSA
 pending
   .
   BCx [**2146-6-27**]
 gram + cocci in pairs and clusters (anaerobic bottle)
   BCx [**2146-6-28**] - NGTD
   .
   UCx- NGTD
   Assessment and Plan
    83 y/o M with PMhx of CVA, Recurrent Aspiration and UTIs who presented
   with fever, tachypnea and suspected aspiration now with CT abd
   concerning for cholecystitis.
   .
   # Fever/Leukocytosis: Etiology unclear and multiple possible sources,
   loose stools and impressive leukocytosis makes Cdiff a possible source,
   h/o recurrent aspiration PNA with infiltrates and hypoxia suggests a
   possible component of aspiration PNA or pneumonitis. Initial UA
   positive for UTI and currently awaiting culture data.  Additional
   concern for cholecystitis although Tbili only mildly elevated and alk
   phos was normal.
   - f/u urine, blood, sputum Cx if possible
   - continue empiric Vanc/Zosyn, Flagyl
   - send stool for Cdiff
   - repeat CXR in am
   - bolus IVF prn
   - goal UOP>30cc/hr
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs, consider MRCP in am
   - f/u final read on CT abd and RUQ u/s
   - trend lactate, CBC, LFTs
   - aggressive pulm toilet
   - t/b with family regarding goals
   .
   # Hypoxia: Pt with h/o recurrent aspiration, now with possible right
   lower lobe infiltrate and bilateral lower lobe consolidation on CT abd
   (lung cuts). Pt unable to give h/o cough but with large A-A gradient
   and diffuse audible secretions.  Possible additional component of pulm
   edema though pt is likely unable to clear secretions and protect
   airway. Possible aspiration in the NH prior to transfer to ED.
   - cover empirically with Vanc/Zosyn
   - send urine/blood and sputum Cx if possible
   - albuterol/atrovent nebs
   - attempt pulm toilet
   - hold off on diuresis given recent hypotension
   - f/u CXR in am
   .
   # ARF: Pt with acute renal failure likely due to dehydration and
   hypoperfusion.  Pt may have component of ATN given hypotension though
   making good urine and creatinine trending down with IVF, will continue
   to trend UOP with boluses.  Pt with h/o recurrent UTI and stones though
   no clear evidence of obstruction of CT abd
   - bolus IVF
   - goal UOP of >30cc/hr
   - follow UA and Cultures
   - continue Zosyn for empiric coverage (h/o proteus/pseudomonas UTI)
   .
   # Obstructive cholestasis/cholecystitis:  Pt with difficult abd exam,
   decreased bowel sounds and grimaces to exam.  CT abd suggestive of
   cholecystitis although Tbili trending down
   - trend LFTs, fractionate bili
   - get MRCP per [**Doctor First Name 458**] recs
   - serial abd exams
   .
   # Fecal impaction: hold off on starting bowel regimen for now as pt
   having liquid stool around impaction
   - send for Cdiff
   - consider enema in am
   .
   # s/p PE on coumadin: INR supratherapeutic at 5.0
   - hold coumadin for now, trend coags
   .
   # s/p CVA: pt with "locked in" syndrome maintained on Diazepam for
   contractures?
   - hold diazepam for now given recent hypotension
   .
   # FEN: NPO given possible aspiration (hold TF)
   - IVF boluses prn and replete electrolytes aggressively
   .
   # Prophylaxis: INR of 5 and Famotidine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-6-27**] 11:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2146-06-29 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2146-6-28**] 02:00 PM
   - HIDA scan showed acute cholecystitis, not candidate for surgery given
   multiple comorbidities.  IR contact[**Name (NI) **] for percutaneous cholecystostomy,
   but INR was 5.3, needs to be 1.5
   - gave vitamin K to bring down INR
   - given 1 unit FFP for possible line, PICC in the AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-6-29**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-6-29**] 05:37 AM
   Vancomycin
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-6-28**] 08:00 AM
   Morphine Sulfate - [**2146-6-28**] 03:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-6-29**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 74 (74 - 145) bpm
   BP: 111/57(69) {96/43(55) - 133/71(79)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 82.4 kg
             Total In:
                                                                  5,687 mL
                                                                    458 mL
   PO:
             TF:
   IVF:
                                                                  5,250 mL
                                                                    368 mL
   Blood products:
                                                                    257 mL
   Total out:
                                                                  3,065 mL
                                                                    510 mL
   Urine:
                                                                  2,590 mL
                                                                    510 mL
   NG:
                                                                    475 mL
   Stool:
   Drains:
   Balance:
                                                                  2,622 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 1L
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General: eyes open, grimaces to exam, no response to verbal stim
   HEENT: Sclera anicteric, eyes follow examiner
   Neck: supple, unable to assess JVP
   Lungs: audible upper airway secretions with rhonchi, L sided wheezes,
   abd breathing
   CV: RRR, unable to appreciate murmurs through upper airway sounds
   Abdomen: soft, non-distended, bowel sounds audible, no grimaces to deep
   palpation,
   GU: foley in place
   Ext: warm, 1+ pulses, no cyanosis or edema.
   Labs / Radiology
   160 K/uL
   9.5 g/dL
   123 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   28.3 %
   22.3 K/uL
        [image002.jpg]
   [**2146-6-29**]
 5am.
                             [**2146-6-27**]  11:42 PM
                             [**2146-6-28**]  12:31 AM
                             [**2146-6-28**]  04:49 AM
                             [**2146-6-28**]  04:28 PM
                             [**2146-6-28**]  10:53 PM
                             [**2146-6-29**]  05:04 AM
   WBC
   28.6
   26.3
   25.5
   22.3
   Hct
   32.6
   30.7
   26.9
   28.1
   28.3
   Plt
   166
   156
   155
   160
   Cr
   1.9
   1.7
   1.6
   1.5
   TropT
   0.03
   0.02
   0.01
   TCO2
   21
   Glucose
   123
   107
   128
   123
   Other labs: PT / PTT / INR:41.1/54.6/4.3, CK / CKMB /
   Troponin-T:400/9/0.01, ALT / AST:24/43, Alk Phos / T Bili:50/0.9,
   Amylase / Lipase:37/11, Differential-Neuts:94.3 %, Lymph:1.3 %,
   Mono:3.2 %, Eos:0.1 %, D-dimer:962 ng/mL, Fibrinogen:736 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   .
   HIDA [**2146-6-28**]: Acute Cholecystitis
   .
   CXR [**2146-6-29**]:  increased consolidation at Right lung base
   .
   C. diff negative x2
   .
   MRSA
 pending
   .
   BCx [**2146-6-27**]
 gram + cocci in pairs and clusters (anaerobic bottle)-
   speciation pending
   BCx [**2146-6-28**] - NGTD
   .
   UCx- NGTD
   Assessment and Plan
    83 y/o M with PMhx of CVA, Recurrent Aspiration and UTIs who presented
   with fever, tachypnea and suspected aspiration now with CT abd
   concerning for cholecystitis.
   .
   # Fever/Leukocytosis: Improving. Pt afebrile with decreasing white
   count. [**Month (only) 60**] be due to acute cholecystitis and/or aspiration pneumonia
   and/or UTI.
   - f/u urine, blood cx
   - continue empiric Vanc/Zosyn, Flagyl
   - repeat CXR in am
   - bolus IVF prn
   - goal UOP>30cc/hr
   - trend lactate, CBC, LFTs
   - aggressive pulm toilet
   .
   # Obstructive cholestasis/cholecystitis:  HIDA suggests acute
   cholecystitis. No surgical intervention at this time. No need for
   percutaneous cholecystostomy.
   - trend LFTs, fractionate bili
   - follow abd exam
   -continue antibiotics for acute cholecystitis
   .
   # Hypoxia: resolving. Most likely due to aspiration pneumonia
   - cover empirically with Vanc/Zosyn
   - albuterol/atrovent nebs for wheezes
   - attempt pulm toilet
   - hold off on diuresis given recent hypotension
   - CXR in AM
   .
   # ARF: improving
   - bolus IVF
   - goal UOP of >30cc/hr
   - follow UCx
   - continue Zosyn for empiric coverage (h/o proteus/pseudomonas UTI)
   .
   # Fecal impaction: hold off on starting bowel regimen for now as pt
   having liquid stool around impaction
   - consider enema
   .
   # s/p PE on coumadin: INR continues to be supratherapeutic at 4.3.
   Received Vitamin K and FFP for possible IR procedure.
   - hold coumadin for now, trend coags
   .
   # s/p CVA: pt with "locked in" syndrome maintained on Diazepam for
   contractures.
   - continue diazepam 2mg PO daily
   .
   # FEN: NPO given possible aspiration (hold TF)
   - IVF boluses PRN and replete electrolytes aggressively
   - t/b with surgery re: nutrition
   ICU Care
   Nutrition: NPO given possible aspiration
   Glycemic Control:  ISS
   Lines:
   Multi Lumen Femoral - [**2146-6-27**] 11:30 PM
 will contact IV nurse re:
   PICC placement given supratherapeutic INR and d/c femoral line
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:  Pt and wife
   [**Name (NI) 66**] status: DNR/DNI
   Disposition: call out to floor for further care

2146-06-29 12:48:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis, coagulopathy
   HPI:
   HIDA scan consistent with acute cholecystitis. WBC down slightly,
   afebrile. LFT's improving.
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2146-6-28**] 02:00 PM
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: s/p stroke
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2146-6-29**] 04:00 AM
   Vancomycin - [**2146-6-29**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2146-6-29**] 12:26 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-6-28**] 03:35 PM
   Famotidine (Pepcid) - [**2146-6-29**] 08:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-6-29**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 62 (62 - 145) bpm
   BP: 106/50(64) {96/43(55) - 124/71(78)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 82.4 kg
             Total In:
                                                                  5,687 mL
                                                                    956 mL
   PO:
             TF:
   IVF:
                                                                  5,250 mL
                                                                    776 mL
   Blood products:
                                                                    257 mL
   Total out:
                                                                  3,065 mL
                                                                  1,335 mL
   Urine:
                                                                  2,590 mL
                                                                  1,335 mL
   NG:
                                                                    475 mL
   Stool:
   Drains:
   Balance:
                                                                  2,622 mL
                                                                   -379 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, left gaze preference
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Bronchial: , Wheezes : diffuse expiratory,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Diminshed bowel sounds
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   160 K/uL
   123 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   37 mg/dL
   110 mEq/L
   142 mEq/L
   28.3 %
   22.3 K/uL
        [image002.jpg]
                             [**2146-6-27**]  11:42 PM
                             [**2146-6-28**]  12:31 AM
                             [**2146-6-28**]  04:49 AM
                             [**2146-6-28**]  04:28 PM
                             [**2146-6-28**]  10:53 PM
                             [**2146-6-29**]  05:04 AM
   WBC
   28.6
   26.3
   25.5
   22.3
   Hct
   32.6
   30.7
   26.9
   28.1
   28.3
   Plt
   166
   156
   155
   160
   Cr
   1.9
   1.7
   1.6
   1.5
   TropT
   0.03
   0.02
   0.01
   TCO2
   21
   Glucose
   123
   107
   128
   123
   Other labs: PT / PTT / INR:41.1/54.6/4.3, CK / CKMB /
   Troponin-T:400/9/0.01, ALT / AST:24/43, Alk Phos / T Bili:50/0.9,
   Amylase / Lipase:37/11, Differential-Neuts:94.3 %, Lymph:1.3 %,
   Mono:3.2 %, Eos:0.1 %, D-dimer:962 ng/mL, Fibrinogen:736 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 .H/O DEPRESSION
 PNEUMONIA, ASPIRATION
 .H/O AORTIC ANEURYSM, THORACIC (TAA)
   CHOLECYSTITIS
   ===================
   Patient's numbers improving with antibiotics. Plan is to continue to
   treat cholecystitis medically. No evidence of sepsis. Afebrile. Plan to
   place PIC to allow D/C of femoral line.
   Creat slightly improved.
   Nebs for wheezing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2146-6-27**] 11:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Patient with prolonged INR)
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2146-06-30 12:48:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis, acute renal failure, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains afebrile. WBC coming down.
   One blood culture positive for staph. Femoral line pulled. PIC line
   being placed.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2146-6-29**] 10:57 AM
 MULTI LUMEN - STOP [**2146-6-30**] 05:00 AM
   History obtained from Medical records
   Patient unable to provide history: s/p CVA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2146-6-29**] 12:00 PM
   Metronidazole - [**2146-6-30**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2146-6-30**] 11:35 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-6-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-6-30**] 12:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (62 - 148) bpm
   BP: 119/55(70) {87/40(52) - 140/67(85)} mmHg
   RR: 18 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.6 kg (admission): 82.4 kg
             Total In:
                                                                  1,425 mL
                                                                    787 mL
   PO:
             TF:
   IVF:
                                                                  1,185 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    945 mL
   Urine:
                                                                  1,995 mL
                                                                    945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Unable to examine patient who is having PIC line
   placed.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   179 K/uL
   127 mg/dL
   1.3 mg/dL
   24 mEq/L
   2.5 mEq/L
   37 mg/dL
   111 mEq/L
   145 mEq/L
   25.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2146-6-27**]  11:42 PM
                             [**2146-6-28**]  12:31 AM
                             [**2146-6-28**]  04:49 AM
                             [**2146-6-28**]  04:28 PM
                             [**2146-6-28**]  10:53 PM
                             [**2146-6-29**]  05:04 AM
                             [**2146-6-30**]  04:08 AM
   WBC
   28.6
   26.3
   25.5
   22.3
   18.7
   Hct
   32.6
   30.7
   26.9
   28.1
   28.3
   25.3
   Plt
   166
   156
   155
   160
   179
   Cr
   1.9
   1.7
   1.6
   1.5
   1.3
   TropT
   0.03
   0.02
   0.01
   TCO2
   21
   Glucose
   123
   107
   128
   123
   127
   Other labs: PT / PTT / INR:28.8/47.3/2.8, CK / CKMB /
   Troponin-T:400/9/0.01, ALT / AST:21/29, Alk Phos / T Bili:60/0.8,
   Amylase / Lipase:37/11, Differential-Neuts:94.3 %, Lymph:1.3 %,
   Mono:3.2 %, Eos:0.1 %, D-dimer:962 ng/mL, Fibrinogen:736 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:177 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 .H/O CONSTIPATION (OBSTIPATION, FOS)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 .H/O DEPRESSION
 PNEUMONIA, ASPIRATION
 .H/O AORTIC ANEURYSM, THORACIC (TAA)
   CHOLECYSTITIS
   ACUTE RENAL FAILURE
   ANEMIA
   ========================
   Patient doing well on present antibiotics. WBC improving. Continue
   antibiotics. One blood culture was positive for staph. Femoral line
   removed. Needs additional cultures.
   Hct down mildly; no evidence of bleeding.
   Creatinine improving with fluids.
   Patient to be transferred to surgical floor.
   Repleting potassium.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-6-29**] 05:19 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 25 minutes